US09447106B2
Step 1: 5-Amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide
A solution of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (1.0 g, 3.6 mmol) in H3PO4 (20 mL) was heated to 120° C. for 4 hr. The mixture was then poured into water (100 mL), extracted with EA (100 mL×3). The combined organic layers were dried over Na2SO4 and concentrated to give the product (850 mg, 77.5%) as yellow solid. MS (ESI, m/e) [M+1]+ 295.1.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 3.6 mmol, 1.0 g | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
reactant | water | 100 mL | O | H2O
solvent | H3PO4 | 20 mL | OP(=O)(O)O | H3O4P
product | 5-Amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 850 mg, 77.5% | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
